US07655669B2
4-Diethylamino-3-(trifluoromethyl)-benzoic acid
A mixture of 4-diethylamino-3-(trifluoromethyl)-benzonitrile (1.21 g, 5 mmol), 12 mL of acetic acid and 8 mL of fuming hydrochloric acid (37%) is shaken for 20 hours at 95° C. After cooling, the reaction mixture is evaporated to dryness under reduced pressure. The solid residue is dissolved in a warm half-saturated aqueous sodium carbonate solution and the pH is adjusted to ˜5-6 by dropwise addition of 2M hydrochloric acid. The formed precipitate is filtered off, washed with water and dried in vacuo to yield a white solid.

reactant | 4-diethylamino-3-(trifluoromethyl)-benzonitrile | 5 mmol, 1.21 g | C(C)N(C1=C(C=C(C#N)C=C1)C(F)(F)F)CC | C12H13F3N2
reactant | hydrochloric acid | 8 mL | Cl | ClH
reactant | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
product | 4-Diethylamino-3-(trifluoromethyl)-benzoic acid | C(C)N(C1=C(C=C(C(=O)O)C=C1)C(F)(F)F)CC | C12H14F3NO2
